US09226922B2
6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine (160 mg, 0.307 mmol), phenol (43.3 mg, 0.460 mmol), copper(i) iodide (5.84 mg, 0.031 mmol), cesium carbonate (200 mg, 0.613 mmol) and N,N-dimethylglycine (9.49 mg, 0.092 mmol) were taken up in 1,4-Dioxane (2.0 ml) in a 25 mL microwave vial. The vial was evacuated and back-filled with N2 (3×) and the reaction mixture was allowed to stir at 100° C. for 6 h. NH4OH was added into the reaction mixture and extracted with EtOAc (2×). The combined organic extracts were washed with water, brine and dried over Na2SO4. After concentration the crude product was purified on silical gel 0-50% EtOAc/Hexanes and yielded 6-chloro-3-phenoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine (120 mg, 0.246 mmol, 80% yield). MS: [M+H]+ m/z 488.

reactant | 6-chloro-3-iodo-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.307 mmol, 160 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)I | C25H17ClIN3
reactant | phenol | 0.460 mmol, 43.3 mg | C1(=CC=CC=C1)O | C6H6O
reactant | cesium carbonate | 0.613 mmol, 200 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylglycine | 0.092 mmol, 9.49 mg | CN(CC(=O)O)C | C4H9NO2
solvent | 1,4-Dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
catalyst | copper(i) iodide | 0.031 mmol, 5.84 mg | [Cu]I
product | 6-chloro-3-phenoxy-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.246 mmol, 120 mg, 80% yield | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)OC2=CC=CC=C2 | C31H22ClN3O
